US09238640B2
Preparation of 2-(4-(1-Acetylpiperidin-4-yloxy)phenyl)-5,7-dimethoxyquinazolin-4(3H)-one
To a solution of 2-amino-4,6-dimethoxy-benzamide (0.20 g, 1.0 mmol) and 4-(1-acetyl-piperidin-4-yloxy)-benzaldehyde (0.25 g, 1.0 mmol) in N,N-dimethyl acetamide (5 mL), NaHSO3 (0.20 g, 1.1 mmol) and p-TSA (20 mg, 0.10 mmol) were added and the reaction mixture was heated at 115° C. for 16 hours. The reaction mixture was cooled to room temperature. N,N-dimethylacetamide was removed under reduced pressure. The residue was diluted with water and the solid was collected; the crude product was purified by column chromatography on silica gel (230-400 mesh), using 5% methanol in CH2Cl2 as eluent, to give the title compound. Yield: 0.2 g (47%). MP 275-277° C. 1H NMR (400 Hz, CDCl3): δ 11.94 (s, 1H), 8.16 (d, 2H), 7.10 (d, 2H), 6.70 (d, 1H), 6.50 (d, 1H), 4.76 (m, 1H), 3.88 (s, 3H), 3.82 (s, 3H), 3.70 (m, 1H), 3.30 (m, 2H), 3.20 (m, 1H), 2.04 (s, 3H), 1.95 (m, 2H), 1.64 (m, 1H), 1.52 (m, 1H).

reactant | 2-amino-4,6-dimethoxy-benzamide | 1.0 mmol, 0.20 g | NC1=C(C(=O)N)C(=CC(=C1)OC)OC | C9H12N2O3
reactant | 4-(1-acetyl-piperidin-4-yloxy)-benzaldehyde | 1.0 mmol, 0.25 g | C(C)(=O)N1CCC(CC1)OC1=CC=C(C=O)C=C1 | C14H17NO3
reactant | NaHSO3 | 1.1 mmol, 0.20 g | OS(=O)[O-].[Na+]
reactant | p-TSA | 0.10 mmol, 20 mg | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | N,N-dimethyl acetamide | 5 mL | CN(C(C)=O)C | C4H9NO
product | 2-(4-(1-Acetylpiperidin-4-yloxy)phenyl)-5,7-dimethoxyquinazolin-4(3H)-one | C(C)(=O)N1CCC(CC1)OC1=CC=C(C=C1)C1=NC2=CC(=CC(=C2C(N1)=O)OC)OC | C23H25N3O5
